US04897393
1.3 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(benzoyl)benzoxazole are dissolved in a mixture of 30 ml of methanol and 6 ml of tetrahydrofuran, and 0.14 g of sodium borohydride is added thereto. After the mixture is stirred at room temerature for 5 minutes, water is added thereto. The solution is extracted with ethyl acetate, and the extract is evaporated to remove the solvent. The residue is crystallized with ether, whereby 0.64 g of 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(α-hydroxybenzyl)benzoxazole is obtained as colorless crystal.

reactant | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(benzoyl)benzoxazole | 1.3 g | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)C(C2=CC=CC=C2)=O)C1 | C18H12N2O4S
reactant | sodium borohydride | 0.14 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | methanol | 30 ml | CO | CH4O
solvent | tetrahydrofuran | 6 ml | O1CCCC1 | C4H8O
product | 5-[(2,4-dioxothiazolidin-5-yl)methyl]-2-(α-hydroxybenzyl)benzoxazole | 0.64 g | O=C1SC(C(N1)=O)CC=1C=CC2=C(N=C(O2)C(C2=CC=CC=C2)O)C1 | C18H14N2O4S
